US06071927
2-Ethoxy-5-(trifluoromethoxy)bromobenzene
2-Bromo-4-trifluoromethoxyphenol (Description 11, 1 g) was dissolved in N,N dimethylformamide (12 ml) and potassium carbonate (1.07 g) was added. Iodoethane (0.78 ml) was added and the mixture was stirred at room temperature. Water (150 ml) and ethyl acetate were added and the layers were separated. The organic layer was washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (100:0 increasing to 95:5) to give the title compound as a colourless oil (1.02 g). 1H NMR (250 MHz, CDCl3) δ1.47 (3 H, t, J 7.0 Hz), 4.09 (2 H, q, J 7.0 Hz), 6.85 (1 H, d, J 9.0 Hz), 7.11 (1 H, m), and 7.43 (1 H, m).

reactant | 2-Bromo-4-trifluoromethoxyphenol | 1 g | BrC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4BrF3O2
reactant | potassium carbonate | 1.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodoethane | 0.78 ml | ICC | C2H5I
reactant | Water | 150 ml | O | H2O
solvent | N,N dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Ethoxy-5-(trifluoromethoxy)bromobenzene | 1.02 g | C(C)OC1=C(C=C(C=C1)OC(F)(F)F)Br | C9H8BrF3O2
